US04668697
5-Aminobenzo[b]thiophene (5.4 g, 0.0362 mole), bis-(2-chloroethyl)ether (5.2 g, 0.0364 mole) and 40% aqueous NaOH (0.073 mole) were stirred vigorously and heated to refluxing for 22 hours. The cooled mixture was extracted with CHCl3. Evaporation of the washed and dried CHCl3 extract under reduced pressure left 7.0 g (88%) of the crude product as a slightly oily, dark yellow solid. This material was combined with 1.75 g of comparable crude product from a previous run. Recrystallization from CH3CN afforded 5.50 g of 5-morpholinobenzo[b]thiophene, m.p. 127°-132° C., that was characterized by nmr.

reactant | 5-Aminobenzo[b]thiophene | 0.0362 mole, 5.4 g | NC1=CC2=C(SC=C2)C=C1 | C8H7NS
reactant | bis-(2-chloroethyl)ether | 0.0364 mole, 5.2 g | ClCCOCCCl | C4H8Cl2O
reactant | NaOH | 0.073 mole | [OH-].[Na+]
product | 5-morpholinobenzo[b]thiophene | 5.50 g | O1CCN(CC1)C1=CC2=C(SC=C2)C=C1 | C12H13NOS
